US06384065B1
In 21 ml of anhydrous tetrahydrofuran were dissolved 1.50 g of 5-(4-oxocyclohexylidene)-valeric acid and 1.17 ml of triethylamine. Then, 4.50 ml of a solution of 0.80 ml of ethyl chloroformate in anhydrous tetrahydrofuran was dropwise added at −20° C., and the resulting mixture was stirred at the same temperature as above for one hour. Then, 4.50 ml of a solution of anhydrous tetrahydrofuran containing 2.00 ml of diethylamine was dropwise added at the same temperature, and the resulting mixture was stirred at ambient temperature for one hour. The reaction mixture was poured into ice water, pH was adjusted to 2.0 with 2 mol/L hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water, saturated aqueous solution of sodium hydrogen carbonate and saturate aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. Purification of the residue by column chromatography [eluent: toluene:ethyl acetate=1:1] gave 1.30 g of N,N-diethyl-5-(4-oxocyclohexylidene)-valeramide as a colorless oily product.

reactant | 5-(4-oxocyclohexylidene)-valeric acid | 1.50 g | O=C1CCC(CC1)=CCCCC(=O)O | C11H16O3
reactant | ethyl chloroformate | 0.80 ml | ClC(=O)OCC | C3H5ClO2
reactant | diethylamine | C(C)NCC | C4H11N
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
solvent | tetrahydrofuran | 21 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.00 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 1.17 ml | C(C)N(CC)CC | C6H15N
product | N,N-diethyl-5-(4-oxocyclohexylidene)-valeramide | 1.30 g | C(C)N(C(CCCC=C1CCC(CC1)=O)=O)CC | C15H25NO2
